US07544697B2
5-Ethyl-1-propyl-1H-pyrazole-3-carboxamide (5.50 g, 30.35 mmol) was treated with phosphorous oxychloride (20 mL) according to the procedure described in Part D of Examples 37-39 to yield 4.89 g of 5-ethyl-1-propyl-1H-pyrazole-3-carbonitrile as an oil.

reactant | 5-Ethyl-1-propyl-1H-pyrazole-3-carboxamide | 30.35 mmol, 5.50 g | C(C)C1=CC(=NN1CCC)C(=O)N | C9H15N3O
solvent | phosphorous oxychloride | 20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-ethyl-1-propyl-1H-pyrazole-3-carbonitrile | 4.89 g | C(C)C1=CC(=NN1CCC)C#N | C9H13N3
